US09353107B2
Step-iii: (S)-1-(4-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-6-methoxypyridin-2-yl)piperazin-1-yl)propan-2-ol
Using similar reaction conditions as described in step-i of example-82A, 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(2-methoxy-6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (52 mg. 0.081 mmol) was alkylated using (S)-2-methyloxirane (8 mg, 0.137 mmol), DIPEA (18 mg, 0.137 mmol) and ethanol (5 mL) to get 61 mg (95.3%) of the titled compound.

reactant | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(2-methoxy-6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.081 mmol, 52 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C(=NC(=CC3)N3CCNCC3)OC)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C34H32FN7O3S
reactant | (S)-2-methyloxirane | 0.137 mmol, 8 mg | C[C@@H]1OC1 | C3H6O
reactant | DIPEA | 0.137 mmol, 18 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (S)-1-(4-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-6-methoxypyridin-2-yl)piperazin-1-yl)propan-2-ol | 61 mg, 95.3% | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=CC(=NC3OC)N3CCN(CC3)C[C@H](C)O)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C37H38FN7O4S
